US07504508B2
(2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid amide (H-12)
(2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid (0.070 g, 0.125 mmol) was converted to the amide by dissolving in THF (1 mL) at room temperature. HOBt (0.025 g), EDCI (0.035 g), and ammonium chloride (0.014 g, 0.25 mmol) was added along with 2 drops of DMF and stirred at room temperature for 11 h. The reaction was diluted with ethyl acetate, washed with 1N NaOH, 1N HCl and brine. The organics were dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (50% ethyl acetate/50% methanol) to afford the product as a white powder in a 71% yield.

reactant | (2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid | 0.125 mmol, 0.070 g | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OC2CCC(CC2)C(=O)O)C=C1)C)C1=CC=C(C=C1)Cl | C32H33ClN2O5
reactant | HOBt | 0.025 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.035 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | ammonium chloride | 0.25 mmol, 0.014 g | [Cl-].[NH4+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-cyclohexanecarboxylic acid amide | 71% yield | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OC2CCC(CC2)C(=O)N)C=C1)C)C1=CC=C(C=C1)Cl | C32H34ClN3O4
